Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:11][H:12]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-4.61055456178
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11].[O:1],8.051940905710001
[H:13].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.57529931035
[C:6]([H:7])([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],1.20167298688
[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],-7.775332340630001
[O:1]=[C:2][C:10]([C:7]([C:4]([C:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[O:1]=[C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-3.38160759276
[H:15].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.57099629762
[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-8.07340087672
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1][C:2],7.23278539863
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.58103976037
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2],7.31701015015
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-1.67916708252
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4],1.74837883089
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5810669914500002
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.56167372625
[H:1][O:2][C:3][O:4][C:5]#[C:6][H:7].[H:8]>>[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],-2.45685938102
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[O:10],4.150599704599999
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-3.8237281566400014
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-7.38526458671
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],6.847710426340001
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[H:12],7.696001804610001
[C:4]([H:5])([H:6])([C:7][H:8])[H:14].[H:1][C:2]#[C:3][C:9]([H:10])([C:11][H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-8.210248844219999
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.24505280003
[C:3]=[C:4]([C:5]([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-10.191795497200001
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2].[O:3]=[C:4]=[C:5][C:6]([H:7])[O:8][H:9],2.09242202183
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-0.900232830039
[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.81893647623
